US07157447B2
3-(Benzyloxy)-2-(6-fluoro-1-oxoisoindoline-2-carbonyl)-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one.
To a stirred suspension of intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid, (1.65 g, 5 mmol) in CH2Cl2 (15 mL) was added a catalytic amount of dimethylformamide and 10 mL of a 2 M oxalylchloride in CH2Cl2. After 30 min., the resulting clear yellow solution was concentrated to afford a light brown solid. This solid was dissolved in CH2Cl2 (50 mL) and added to a stirred mixture of intermediate 107, 2-(aminomethyl)-5-fluorobenzonitrile trifluoroacetic acid salt, (1.77 g, 5.97 mmol) and diethylisopropylamine (2.6 mL, 15 mmol) in CH2Cl2 (100 mL). After 1 h, the clear brown reaction mixture was concentrated and the resulting residue dissolved in ethyl acetate (200 mL) then washed sequentially with water (25 mL), 1N HCl (25 mL), water (25 mL) and brine (25 mL). The combined aqueous layers were extracted with CH2Cl2 (3×50 mL). The combined organic phases were dried (Na2SO4), filtered, concentrated and purified by flash chromatography (SiO2), using 30–50% ethyl acetate/Hexanes as eluent to afford the title compound (0.331 g, 14% yield) as a yellow powder. 1H NMR (500 MHz, CDCl3) δ: 7.48–7.45 (1H, m), 7.88 (2H, d, J=7.9 Hz), 7.30 (2H, d, J=7.0 Hz), 7.12 (2H, t, J=7.6 Hz), 7.05–7.01 (1H, m), 5.22 (2H, s), 4.77 (2H, s), 4.06 (4H, s), 1.59 (6H, s). HRMS (M+H) calcd for C25H23FN3O5: 464.1622. found: 464.1628.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | 5 mmol, 1.65 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | oxalylchloride | 2 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(aminomethyl)-5-fluorobenzonitrile trifluoroacetic acid salt | 5.97 mmol, 1.77 g | FC(C(=O)O)(F)F.NCC1=C(C#N)C=C(C=C1)F
reactant | diethylisopropylamine | 15 mmol, 2.6 mL | C(C)N(C(C)C)CC | C7H17N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(Benzyloxy)-2-(6-fluoro-1-oxoisoindoline-2-carbonyl)-9,9-dimethyl-6,7-dihydropyrimido[2,1-c][1,4]oxazin-4(9H)-one | 0.331 g, 14% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)N1C(C2=CC(=CC=C2C1)F)=O | C25H22FN3O5
